US06831084B1
(R)-1-(Phenylmethyl)-2-[4-(2-methoxyphenyl)-1-piperazinyl]-ethyl)amine. A solution of (R)-[1-(phenylmethyl)-2-[4-(2-methoxyphenyl)-1-piperazinyl]-2-oxo-ethyl]-carbamic acid tert-butyl ester (16.37 g, 37.3 mmol) in a mixture of dioxane (150 mL)/4N aqueous HCl (150 mL) was stirred at room temperature for 6 hours. The reaction mixture was then concentrated under reduced pressure and the aqueous mixture was extracted with diethyl ether. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield the desired (R)-[1-(phenylmethyl)-2-[4-(2-methoxyphenyl)-1-piperazinyl]-2-oxoethyl]amine hydrochloride (14.0 g, 100% yield) as an off-white solid, which was used in the next step without further purification.

reactant | (R)-[1-(phenylmethyl)-2-[4-(2-methoxyphenyl)-1-piperazinyl]-2-oxo-ethyl]-carbamic acid tert-butyl ester | 37.3 mmol, 16.37 g | C(C)(C)(C)OC(N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)CC1=CC=CC=C1)=O | C25H33N3O4
reactant | HCl | 4N, 150 mL | Cl | ClH
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | (R)-[1-(phenylmethyl)-2-[4-(2-methoxyphenyl)-1-piperazinyl]-2-oxoethyl]amine hydrochloride | 14.0 g, 100% yield | Cl.C1(=CC=CC=C1)C[C@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)OC)N | InChI=1S/C20H25N3O2.ClH/c1-25-19-10-6-5-9-18(19)22-11-13-23(14-12-22)20(24)17(21)15-16-7-3-2-4-8-16;/h2-10,17H,11-15,21H2,1H3;1H/t17-;/m1./s1
